US05053507
In 700 ml of a mixed solvent of acetic acid/dioxane/water (10/5/5) was dissolved 0.35 mole of a each R-form of fatty acid ester of 1-(4-(1-ethoxyethoxy)phenyl)ethanol, and the mixture was stirred at room temperature for 2 hours. The solvent was distilled under reduced pressure to give an R-form of fatty acid ester of 1-(4-hydroxyphenyl)ethanol.

reactant | 1-(4-(1-ethoxyethoxy)phenyl)ethanol | C(C)OC(C)OC1=CC=C(C=C1)C(C)O | C12H18O3
solvent | acetic acid dioxane water | C(C)(=O)O.O1CCOCC1.O
product | 1-(4-hydroxyphenyl)ethanol | OC1=CC=C(C=C1)C(C)O | C8H10O2
